US06720324B2
A solution of (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylic acid (1.2 eq), EDC (1.5 Eq.), N-methylmorpholine (2.0 Eq.) in dichloromethane was stirred at room temperature for 15 minutes, followed by addition of 3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)-1-propanamine (1.0 eq.) to the reaction mixture. The resulting solution was stirred for 18 hours, concentrated and chromatographed on silica to give (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-N-[3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxamide.

reactant | (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylic acid | 1.2 eq | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)O)COC)=O | C13H12F2N2O4
reactant | EDC | 1.5 Eq.
reactant | N-methylmorpholine | 2.0 Eq. | CN1CCOCC1 | C5H11NO
reactant | 3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)-1-propanamine | 1.0 eq. | [N+](=O)([O-])C=1C=C(C=CC1)C=1CCN(CC1)CCCN | C14H19N3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-N-[3-(4-(3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxamide | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)NCCCN1CCC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-])COC)=O | C27H29F2N5O5
